US04636492
First, Boc-Ser(OCH2C6H5)-OH (4.93 g, 16.7 mmol) was coupled to H-Ala-OCH3.HCl (2.80 g, 20.0 mmol) by a mixed anhydride procedure to yield an oil, 6.1 g. Boc-Ser(OCH2C6H5)-Ala-OCH3 was then deblocked with trifluoroacetic acid, and the resulting product, H-Ser(OCH2C6H5)-Ala-OCH3.trifluoroacetate (6.15 g, 15.6 mmol), was coupled to Z-Phe-OH (3.89 g, 13.0 mmol) using a mixed anhydride procedure. This product was crystallized from ethyl acetate to yield 5.4 g of Z-Phe-Ser(OCH2C6H5)-Ala-OCH3 (m.p. 158°-159°).

reactant | Boc-Ser(OCH2C6H5)-OH | 16.7 mmol, 4.93 g | N([C@@H](COCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C15H21NO5
reactant | H-Ala-OCH3.HCl | 20.0 mmol, 2.80 g | N[C@@H](C)C(=O)OC.Cl
reactant | Boc-Ser(OCH2C6H5)-Ala-OCH3 | N([C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)OC)C(=O)OC(C)(C)C | C19H28N2O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | H-Ser(OCH2C6H5)-Ala-OCH3.trifluoroacetate | 15.6 mmol, 6.15 g | N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)OC.FC(F)(F)C(=O)O
reactant | Z-Phe-OH | 13.0 mmol, 3.89 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
product | Z-Phe-Ser(OCH2C6H5)-Ala-OCH3 | 5.4 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C31H35N3O7
